US05861359
A stirred solution of 21.8 grams (0.15 mole) of 5-ethyl-2-formylphenol, 24.2 grams (0.15 mole) of methyl DL-2-bromopropanoate, and 30 grams (0.22 mole) of potassium carbonate in 300 mL of acetone was heated at reflux for about 18 hours. After this time, the reaction mixture was cooled and concentrated under reduced pressure to a residue. The residue was taken up in methylene chloride, washed first with water, and then with an aqueous 10% sodium hydroxide solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel, using a gradient elution starting with 50% methylene chloride in hexane and progressing to 100% methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 9.8 grams of methyl 2-(5-ethyl-2-formylphenoxy)propanoate. The NMR spectrum was consistent with the proposed structure.

reactant | 5-ethyl-2-formylphenol | 0.15 mole, 21.8 grams | C(C)C=1C=CC(=C(C1)O)C=O | C9H10O2
reactant | 2-bromopropanoate | BrC(C(=O)[O-])C
reactant | potassium carbonate | 0.22 mole, 30 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | methyl 2-(5-ethyl-2-formylphenoxy)propanoate | 9.8 grams | C(C)C=1C=CC(=C(OC(C(=O)OC)C)C1)C=O | C13H16O4
